US05633387
A solution of sodium hydroxide (13 g, about 45% by weight) in water, 1-(2-chloro-phenyl)-5-chlorotetrazole (12.9 g) in water (6.5 ml) were mixed and the mixture was heated to 110° C. The reaction was initiated and the temperature increased to 115° C. After 3 minutes from the initiation of the reaction, the temperature was lowered to room temperature and then water (20 ml) was added. The insoluble matter was extracted with toluene (10 ml) and the aqueous solution was adjusted to a pH of 1. The solid matter was collected by filtration followed by washing with water and drying to obtain a pale tan solid 1-(2-chlorophenyl)-5(4H)-tetrazolinone (11.3 g) (yield: 96%). melting point: 123°-125° C.

reactant | sodium hydroxide | 13 g | [OH-].[Na+]
reactant | 1-(2-chloro-phenyl)-5-chlorotetrazole | 12.9 g | ClC1=C(C=CC=C1)N1N=NN=C1Cl | C7H4Cl2N4
solvent | water | O | H2O
solvent | water | 6.5 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 1-(2-chlorophenyl)-5(4H)-tetrazolinone | 11.3 g, yield: 96% | C1=CC=C(C(=C1)N2C(=O)N=NN2)Cl | C7H5ClN4O
